Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
numbness, vision changes, headache, speech difficulty
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old right
handed woman who presents to the ED as a transfer from ___ after presenting there with complaints of visual
changes, headache, and numbness.

She states she was in her usual state of health today and was
getting dressed after a shower shortly after 11am. As she was
combing her hair, she started to feel dizzy and felt that her
eyes were "chattering" by which she means moving back and forth
very quickly. She then experienced pain in her head which
radiated from the occiput over her scalp to the forehead. This
was rather severe. She then saw "dots of red and white" in both
eyes. She became very nauseated. She then heard a piercing sound
in both ears. All of this happened over the course of 10 seconds
or so.

She is unsure if there was any weakness or sensory change at 
this
time, but she does note that she was able to walk downstairs and
talk to her husband. She feels like she had some trouble 
talking,
in the sense that she seemed to be stuttering and couldn't get
the words out as quickly as she wanted. At this point her 
husband
decided to drive her to ___. She notes that at 
this
time she was very fatigued. 

While at ___, she developed a "tension" like
headache. This was about an hour after the initial symptoms. She
describes this as a constant, aching sensation, located more on
the left side than right. Telestroke was activated, and no tPA
was recommended. She was transferred to ___ for further
evaluation.

On my interview, she continues to complain of the left sided
headache, as well as a slight numbness on the left side of her
face, which in particular is a decreased sensation to 
temperature
on that side. Her vision is now normal. She feels a bit
nauseated. 
 
Of note, she does tell me she was diagnosed with "optic
migraines" after she had an episode last year where she was
reading, then suddenly saw a prism-like shape of "sunlight".
Shortly thereafter she developed a headache behind the right 
ear.
She was seen by her ophthalmologist who diagnosed her with
migraine. 

 
Past Medical History:
Spinal stenosis
Migraine
 
Social History:
___
Family History:
No family history of stroke or other neurologic disease.    
 
Physical Exam:
Admission Physical Examination: 
Vitals: 98.0 84 124/73 18 100% RA 
General: Awake, somewhat anxious.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Tenderness in right paraspinal muscles. No rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk (appears to be
somewhat photophobic when testing this). EOMI without nystagmus.
Normal saccades. VFF to confrontation. Visual acuity ___
bilaterally. Funduscopic exam revealed no papilledema, exudates,
or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout (including on the face).
No extinction to DSS.  

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      1     1
R   2     2      2      1     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Not tested

Discharge physical exam:
Patient was teary at times talking about the recent death of her 
sister. ___, she was speaking in full sentences and 
had ___ strength. Sensation intact to light touch. Face 
symmetric. Headache was reproducible with palpation of back of 
neck. Also had paraspinal muscle tenderness with palpation. 
 
Pertinent Results:
ADMISSION LABS
___ 03:10PM BLOOD WBC-9.0 RBC-4.15 Hgb-13.0 Hct-39.1 MCV-94 
MCH-31.3 MCHC-33.2 RDW-11.3 RDWSD-38.7 Plt ___
___ 03:10PM BLOOD Glucose-95 UreaN-18 Creat-0.8 Na-143 
K-4.2 Cl-107 HCO3-22 AnGap-14
___ 03:10PM BLOOD ALT-16 AST-22 AlkPhos-77 TotBili-0.2
___ 03:10PM BLOOD Triglyc-106 HDL-56 CHOL/HD-3.8 
LDLcalc-137*
___ 05:12PM BLOOD %HbA1c-5.7 eAG-117
___ 03:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

MRI BRAIN
1. No acute infarct or intracranial hemorrhage. 
2. 2 mm dural-based enhancing lesion along the left tentorium 
likely 
represents a meningioma. 
3. Patent circle of ___ without definite evidence of 
stenosis,occlusion,or aneurysm. 
4. Patent bilateral cervical carotid and vertebral arteries 
without definite evidence of stenosis, occlusion, or dissection. 


CXR
No acute cardiopulmonary abnormality.

 
Brief Hospital Course:
___ year old right handed woman who was transferred from
___ after presenting with an episode of
vision changes, severe headache, and dizziness, which was
followed about one hour later by a more dull headache. She also
noted some subtle speech difficulties.

Neurologic exam was noticeable for reproducible occipital 
headache upon palpation of the back of the neck. She also had 
some paraspinal muscle tenderness on palpation. Given her age, 
MRI brain was obtained which showed no evidence of stroke. Her 
symptoms were likely due to migraine combined with recent 
stressors in her life (sister passed away). Social work was 
consulted to provide resources for coping. 

TRANSITIONAL ISSUES
-------------------
[]atorvastatin 40mg qpm was started for hyperlipidemia
[]follow up with primary care doctor
[]urine culture was still pending on day of discharge and needs 
to be followed up
[]consider following up 2mm enhancing lesion found on brain MRI 
(likely meningioma) if patient develops symptoms
 
Medications on Admission:
1. Vitamin D Dose is Unknown  PO Frequency is Unknown 
2. Cyanocobalamin Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0 
2.  Cyanocobalamin 100 mcg PO DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You presented to ___ because you were having 
vision changes, headache, and numbness.

While in the hospital, you had brain imaging which did not show 
any evidence of acute stroke. Your symptoms were likely due to 
migraine and recent stressors in your life.

After you leave the hospital, make sure you follow up with your 
primary care doctor in clinic.

We wish you the best,

Your ___ neurology team
 
Followup Instructions:
___